US08133909B2
(2-Methoxy-pyridin-3-yl)-[2-(4-trifluoromethyl-phenyl)-ethyl]-amine
In analogy to example 33, step 1, (4-trifluoromethyl-phenyl)-acetic acid (commercially available) was coupled with 2-methoxy-pyridin-3-ylamine (commercially available) to give the title compound.

reactant | (4-trifluoromethyl-phenyl)-acetic acid | FC(C1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2
reactant | 2-methoxy-pyridin-3-ylamine | COC1=NC=CC=C1N | C6H8N2O
product | (2-Methoxy-pyridin-3-yl)-[2-(4-trifluoromethyl-phenyl)-ethyl]-amine | COC1=NC=CC=C1NCCC1=CC=C(C=C1)C(F)(F)F | C15H15F3N2O
